US07384983B2
4-acetoxy-2-methylphenol
Acetic anhydride (4.73 gm, 4.37 mL, 46.3 mMol) was added dropwise to a mixture of 4-hydroxy-2-methylphenol (5 gm, 46.3 mMol) and cesium carbonate (15.1 gm, 46.3 mMol) in acetonitrile (50 mL). After stirring overnight, the mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5:1 pentane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.24 gm (3%) of the desired compound.

reactant | Acetic anhydride | 46.3 mMol, 4.37 mL, 4.73 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-hydroxy-2-methylphenol | 46.3 mMol, 5 gm | OC1=CC(=C(C=C1)O)C | C7H8O2
reactant | cesium carbonate | 46.3 mMol, 15.1 gm | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-acetoxy-2-methylphenol | 0.24 gm, 3% | C(C)(=O)OC1=CC(=C(C=C1)O)C | C9H10O3
